US09260441B2
Step A: N,N-Dimethyl-6-piperazin-1-yl-pyridine-3-carboxamide
A solution of 6-chloro-N,N-dimethylnicotinamide (250 mg, 1.354 mmol), piperazine (584 mg, 6.77 mmol), sodium tert-butoxide (260 mg, 2.71 mmol) and BrettPhos (36 mg, 0.068 mmol) in anhydrous 1,4-dioxane (7 ml) was purged with argon. Next, Pd2(DBA)3 (62 mg, 0.068 mmol) was added and the mixture was heated in a closed vial to 70° C. for 2 hours, then heating was turned off and the mixture was stirred at room temperature for 3 days. The mixture was filtered through kieselguhr, the filter was washed with ethyl acetate, the combined filtrates were concentrated under reduced pressure and the residue was purified by repeated column chromatography (silica, gradient from 1 to 10% methanol containing 7N ammonia in DCM) to yield 158 mg of a solid (0.674 mmol, 50% yield) MS (multi-mode) m/z=235.2 [M+1]+.

reactant | 6-chloro-N,N-dimethylnicotinamide | 1.354 mmol, 250 mg | ClC1=NC=C(C(=O)N(C)C)C=C1 | C8H9ClN2O
reactant | piperazine | 6.77 mmol, 584 mg | N1CCNCC1 | C4H10N2
reactant | sodium tert-butoxide | 2.71 mmol, 260 mg | CC(C)([O-])C.[Na+]
reactant | BrettPhos | 0.068 mmol, 36 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC(=C2P(C3CCCCC3)C4CCCCC4)OC)OC)C(C)C | C35H53O2P
solvent | 1,4-dioxane | 7 ml | O1CCOCC1 | C4H8O2
catalyst | Pd2(DBA)3 | 0.068 mmol, 62 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N,N-Dimethyl-6-piperazin-1-yl-pyridine-3-carboxamide | 0.674 mmol, 158 mg, 50% yield | CN(C(=O)C=1C=NC(=CC1)N1CCNCC1)C | C12H18N4O
